US04287341
3,4-Dimethoxy-2 -nitro-benzoic acid (VIII)
A solution of 823 g. potassium permanganate in about 8.5 liters of H2O was gradually added to a refluxing solution of 3,4-dimethoxy-2-nitrobenzaldehyde (550 g., 2.60 moles) in 5.6 liters of acetone. The reaction mixture was refluxed for four more hours, then filtered through diatomaceous earth while hot and the filter cake washed with hot water. The acetone was removed in vacuo and a small amount of unreacted solid was filtered off. The aqueous solution was acidified with 2 N hydrochloric acid (1.8 liters) to yield 505 g. (85% ) of the essentially pure title compound. Recrystallization from water afforded colorless crystals, M.P. 200°-202° C.

reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 3,4-dimethoxy-2-nitrobenzaldehyde | 2.60 moles, 550 g | COC=1C(=C(C=O)C=CC1OC)[N+](=O)[O-] | C9H9NO5
solvent | H2O | about 8.5 liters | O | H2O
solvent | acetone | 5.6 liters | CC(=O)C | C3H6O
product | 3,4-Dimethoxy-2 -nitro-benzoic acid | COC=1C(=C(C(=O)O)C=CC1OC)[N+](=O)[O-] | C9H9NO6
